US07531532B2
4-(4-Amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine
To 4-(2-fluoro-4-nitrophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine (2.927 g) dissolved in ethanol (100 ml)-water (20 ml) were added electrolytic iron powder (3.0 g) and ammonium chloride (6.0 g), followed by heating under reflux for 1 hr. The reaction mixture was cooled down to room temperature, and then ethyl acetate-tetrahydrofuran (1:1) was added thereto, followed by stirring. An insoluble portion was filtered through celite, and washed with ethyl acetate and water. The organic layer of the filtrate was separated, washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, to which ethyl acetate-hexane was added to suspend. Crystals was filtered off and dried under aeration to provide the titled compound (2.378 g, 89%) as pale brown crystals.

reactant | 4-(2-fluoro-4-nitrophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 2.927 g | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C16H15FN4O4
reactant | ammonium chloride | 6.0 g | [Cl-].[NH4+]
reactant | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
catalyst | iron | 3.0 g | [Fe] | Fe
product | 4-(4-Amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 2.378 g, 89% | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
